US04742061
(±)-1-[(2-Trifluoromethylphenyl)methyl]-5-oxo-2-pyrrolidinecarboxylic acid
A solution of 17.40 g of sodium hydroxide pellets in 275 ml of water was treated with 131 g of (±)-1-[(2-trifluoromethylphenyl)methyl]-5-methoxycarbonyl-2-pyrrolidinone and was heated for four hours with a steam bath. The solution was cooled down to room temperature and extracted with diethyl ether (total volume=1000 ml). The aqueous phase was acidified with 50 ml of concentrated hydrochloric acid and extracted with dichloromethane (total volume=900 ml). The organic phase was dried over anhydrous sodium sulfate and concentrated to a solid. The solid was recrystallized from toluene (800 ml) which afforded 49.8 g of crystals, m.p. 139°-141°.

reactant | sodium hydroxide | 17.40 g | [OH-].[Na+]
reactant | (±)-1-[(2-trifluoromethylphenyl)methyl]-5-methoxycarbonyl-2-pyrrolidinone | 131 g | FC(C1=C(C=CC=C1)CN1C(CCC1C(=O)OC)=O)(F)F | C14H14F3NO3
solvent | water | 275 ml | O | H2O
product | (±)-1-[(2-Trifluoromethylphenyl)methyl]-5-oxo-2-pyrrolidinecarboxylic acid | 49.8 g | FC(C1=C(C=CC=C1)CN1C(CCC1=O)C(=O)O)(F)F | C13H12F3NO3
